US05556977
4-[2-[4-(4-Pridyl)piperazin-1-yl]acetyl]-2,6-di-tert-butylphenoxyacetic acid
A solution of methyl 4-(2-[4-(4-pyridyl)piperazin-1-yl]acetyl)-2,6-di-tert-butylphenoxyacetate (241 mg) in dioxane (2.0 ml) was treated with 1N hydrochloric acid and the mixture heated at 100° C. for 20 hours. The mixture was cooled, diluted with water, filtered and the liltrate freeze-dried. The solid residue was purified by flash chromatography on silica eluting with toluene/ethyl acetate/0.880 ammonia/ethanol (60:20:10:35 v/v/v/v). The fractions containing the desired product were evaporated, the residue treated with dioxane, filtered and the liltrate diluted with water and freeze dried to give a white foam, which on drying at 55° C. gave the title compound, 90 mg: NMR (d6DMSO) δ8.16 (2H, d), 7.97 (2H, s), 6.84 (2H, d), 4.22 (2H, s), 3.86 (2H, s), 3.37 (4H, t), 2.64 (4H, t), 1.39 (18H, s); m/e 468 (M+H)+ ; calculated for C27H37N3O4.2H2O: C, 64.4; H, 8.2; N, 8.3. found C, 64.6; H, 7.9; N, 7.9%.

reactant | methyl 4-(2-[4-(4-pyridyl)piperazin-1-yl]acetyl)-2,6-di-tert-butylphenoxyacetate | 241 mg | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC(=C(OCC(=O)OC)C(=C1)C(C)(C)C)C(C)(C)C | C28H39N3O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[2-[4-(4-Pridyl)piperazin-1-yl]acetyl]-2,6-di-tert-butylphenoxyacetic acid | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC(=C(OCC(=O)O)C(=C1)C(C)(C)C)C(C)(C)C | C27H37N3O4
